US05118885
Hydrogenation of octa-2,7-dien-1-ol gives n-octanol, which is useful as a starting material for plasticizers such as dioctyl phthalate. Hydrogenation of the product obtained by subjecting octa-2,7-dien-1-ol to oxo reaction gives 1,9-nonanediol, which is useful as a starting material for producing polyesters having high resistance to hydrolysis.

reactant | dioctyl phthalate | C(C=1C(C(=O)OCCCCCCCC)=CC=CC1)(=O)OCCCCCCCC | C24H38O4
reactant | octa-2,7-dien-1-ol | C(C=CCCCC=C)O | C8H14O
product | 1,9-nonanediol | C(CCCCCCCCO)O | C9H20O2
